US07795267B2
1,1-Dimethylethyl N-[2-(3,6-dihydropyridin-1(2H)-yl)-2,2-dimethylethyl]carbamate
A solution of acetone cyanohydrin (1.1 mL, 12 mmol) and 1,2,3,6-tetrahydropyridine (1.1 mL, 12 mmol) in toluene (60 mL) was dehydrated using a Dean-Stark apparatus while refluxing for 24 hours. The reaction solution was concentrated under reduced pressure, and the resulting residue (0.72 g) was dissolved in diethyl ether (20 mL). The mixture was added dropwise to an 80% suspension of aluminum lithium hydride (0.27 g, 7.2 mmol) in diethyl ether (20 mL) with ice cooling. The resulting mixture was stirred at room temperature for 14 hours. Water (10 mL) was added portionwise thereto, and then insolubles were filtered off through Celite, and the Celite was washed with tetrahydrofuran. The filtrate was concentrated under reduced pressure, and the residue was dissolved in tetrahydrofuran (50 mL). Triethylamine (0.84 mL, 6.0 mmol) and di-tert-butyl dicarbonate (1.0 g, 4.7 mmol) were added thereto, and the mixture was stirred at room temperature for 14 hours. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=9:1 to ethyl acetate) to obtain the title compound (0.74 g, yield 24%).

reactant | acetone cyanohydrin | 12 mmol, 1.1 mL | CC(C#N)(O)C | C4H7NO
reactant | 1,2,3,6-tetrahydropyridine | 12 mmol, 1.1 mL | N1CCC=CC1 | C5H9N
reactant | aluminum lithium hydride | 7.2 mmol, 0.27 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | Triethylamine | 6.0 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.7 mmol, 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | 10 mL | O | H2O
product | 1,1-Dimethylethyl N-[2-(3,6-dihydropyridin-1(2H)-yl)-2,2-dimethylethyl]carbamate | 0.74 g, yield 24% | N1(CCC=CC1)C(CNC(OC(C)(C)C)=O)(C)C | C14H26N2O2
